US09216173B2
To a solution of benzyl (3,3,3-trifluoro-2-hydroxypropyl)carbamate (100 g, 380 mmol) in dichloromethane (1700 mL) was added triethylamine (64 g, 630 mmol). The reaction mixture was cooled to −40° C. and triflic anhydride (118 g, 418 mmol) was added dropwise. After 1 hour, the reaction mixture was quenched with water (600 mL) at −40° C., then warmed to ambient temperature and washed with brine (3×600 mL). The organics were dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via chromatography on silica gel (10% ethyl acetate/petroleum ether) to afford 3-{[(benzyloxy)carbonyl]amino}-1,1,1-trifluoropropan-2-yl trifluoromethanesulfonate.

reactant | benzyl (3,3,3-trifluoro-2-hydroxypropyl)carbamate | 380 mmol, 100 g | FC(C(CNC(OCC1=CC=CC=C1)=O)O)(F)F | C11H12F3NO3
reactant | triethylamine | 630 mmol, 64 g | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 418 mmol, 118 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 1700 mL | ClCCl | CH2Cl2
product | 3-{[(benzyloxy)carbonyl]amino}-1,1,1-trifluoropropan-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC(C(F)(F)F)CNC(=O)OCC1=CC=CC=C1)(F)F | C12H11F6NO5S
